US07884113B2
152A. 2-Amino-3-(4-chloro-2-nitrophenyl)propanoic acid
The title compound was prepared from 4-chloro-2-nitrobenzyl chloride and diethylacetamidomalonate according to the procedures described by Davis, A. L.; et al, in Arch. Biochem, Biophys., 102, 48 (1963).

reactant | 4-chloro-2-nitrobenzyl chloride | ClC1=CC(=C(CCl)C=C1)[N+](=O)[O-] | C7H5Cl2NO2
reactant | diethylacetamidomalonate | C(C)C(C(=O)NC(C(=O)[O-])C(=O)[O-])CC
product | 2-Amino-3-(4-chloro-2-nitrophenyl)propanoic acid | NC(C(=O)O)CC1=C(C=C(C=C1)Cl)[N+](=O)[O-] | C9H9ClN2O4
